US04824468
2-(m-Trifluoromethylphenyl)-3-isopropylcarbamyl-5-ethyl-1,3-oxazolidine
Four and four-tenths grams of 2-(m-trifluoromethylphenyl)-5-ethyl-1,3-oxazolidine was dissolved in dry acetone and 1.8 ml of isopropyl isocyanate was added dropwise. The mixture was heated at reflux for two hours, cooled and stripped on the rotary evaporator. Yield was 5.9 g of a thick, sticky gum. The structure was confirmed by NMR and infrared spectroscopy.

reactant | 2-(m-trifluoromethylphenyl)-5-ethyl-1,3-oxazolidine | FC(C=1C=C(C=CC1)C1OC(CN1)CC)(F)F | C12H14F3NO
reactant | isopropyl isocyanate | 1.8 ml | C(C)(C)N=C=O | C4H7NO
solvent | acetone | CC(=O)C | C3H6O
product | 2-(m-Trifluoromethylphenyl)-3-isopropylcarbamyl-5-ethyl-1,3-oxazolidine | FC(C=1C=C(C=CC1)C1OC(CN1C(NC(C)C)=O)CC)(F)F | C16H21F3N2O2
